US05834468
4-[2-(4-(Phenethyl)pyrid-3-yl)ethyl]benzoic acid
tert-Butyl 4-[2-(4-(phenethyl)pyrid-3-yl)ethyl]benzoate (0.36 g, 0.95 mmol) was dissolved in dichloromethane (5 ml) and treated with trifluoroacetic acid (0.5 ml). The reaction was stirred at ambient temperature for 5 hours, then partitioned between ethyl acetate and buffer (pH 6). The layers were separated and the aqueous layer extracted with ethyl acetate. The organic layers were combined, dried (MgSO4) and evaporated to give the title product (0.168 g) as a salt with THF.

reactant | tert-Butyl 4-[2-(4-(phenethyl)pyrid-3-yl)ethyl]benzoate | 0.95 mmol, 0.36 g | C(CC1=CC=CC=C1)C1=C(C=NC=C1)CCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C26H29NO2
reactant | trifluoroacetic acid | 0.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-[2-(4-(Phenethyl)pyrid-3-yl)ethyl]benzoic acid | 0.168 g | C(CC1=CC=CC=C1)C1=C(C=NC=C1)CCC1=CC=C(C(=O)O)C=C1 | C22H21NO2
